US05650533
5-Hydroxy-5-(2-nitro-4-trifluoromethylphenyl)-isoxazoline (8.47 g) was added in portions to concentrated sulphuric acid (85 ml). The mixture was stirred for 2 hours and poured into a mixture of ice and water (200 ml). It was extracted with ether (2×100 ml) and the combined organic extracts were washed with water (2×75 ml), dried (anhydrous sodium sulphate) and filtered. The filtrate was evaporated to dryness and the residue was triturated with petroleum spirit (bp 60°-80° C.) and filtered to give 5-(2-nitro-4-trifluoromethylphenyl)-isoxazole (7.45 g) as a white solid, mp 62°-63° C.

reactant | 5-Hydroxy-5-(2-nitro-4-trifluoromethylphenyl)-isoxazoline | 8.47 g | OC1(CC=NO1)C1=C(C=C(C=C1)C(F)(F)F)[N+](=O)[O-] | C10H7F3N2O4
reactant | sulphuric acid | 85 ml | S(O)(O)(=O)=O | H2O4S
solvent | water | 200 ml | O | H2O
product | 5-(2-nitro-4-trifluoromethylphenyl)-isoxazole | 7.45 g | [N+](=O)([O-])C1=C(C=CC(=C1)C(F)(F)F)C1=CC=NO1 | C10H5F3N2O3
